US07312233B2
Preparation of 4-methyl-3,4-dihydro-2H-benzo[b][1,4]oxazin-7-amine
Potassium carbonate (800 mg, 6 mmol) and methyl iodide (1.3 g, 9 mmol) were added to a solution of 3,4-dihydro-7-nitro-2H-benzo[b][1,4]oxazine (540 mg, 3 mmol) in DMF (10 mL). The reaction mixture was stirred at room temperature overnight. Sodium hydride (100 mg, 95%) and methyl iodide (1.0 g) were added and the reaction mixture was stirred at room temperature overnight. The solvent was removed under vacuum and the residue was suspended in water. A solid precipitated which was filtered and washed with water. The bright yellow solid was then suspended in MeOH (20 mL) and Pd/C (10%) was added. The suspension was stirred under an atmosphere of hydrogen overnight, then filtered through celite and the filtrate concentrated under vacuum to give the product (470 mg) as a purple oil.

reactant | Potassium carbonate | 6 mmol, 800 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 9 mmol, 1.3 g | CI | CH3I
reactant | 3,4-dihydro-7-nitro-2H-benzo[b][1,4]oxazine | 3 mmol, 540 mg | [N+](=O)([O-])C=1C=CC2=C(OCCN2)C1 | C8H8N2O3
reactant | Sodium hydride | 100 mg | [H-].[Na+]
reactant | methyl iodide | 1.0 g | CI | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-methyl-3,4-dihydro-2H-benzo[b][1,4]oxazin-7-amine | 470 mg | CN1C2=C(OCC1)C=C(C=C2)N | C9H12N2O
